### PR TITLE
[Merged by Bors] - refactor(Analysis): golf `Mathlib/Analysis/Convex/Between`

### PR DESCRIPTION
**Pull request by yuanyi-350**
- rewrites `Wbtw.sameRay_vsub` via `sameRay_of_mem_segment`
- rewrites `Wbtw.collinear` via `collinear_insert_of_mem_affineSpan_pair`
- simplifies `wbtw_iff_sameRay_vsub` to a `simp` proof using segment lemmas

Extracted from #37968

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by yuanyi-350** [comment]
I ran a profiler comparison for the changed declarations in this PR.

Results (seconds):
- `Wbtw.sameRay_vsub`: `0.549536 -> 0.061617` (`-88.79%`)
- `Wbtw.collinear`: `0.121434 -> 0.020693` (`-82.96%`)
- `wbtw_iff_sameRay_vsub`: `0.643571 -> 0.021504` (`-96.66%`)

Overall:
- All measured changed declarations are faster after this refactor.

File: Mathlib/Analysis/Convex/Between.lean [hunk 1]
```diff
@@ -1041,17 +1034,7 @@ theorem Sbtw.trans_expand_right {w x y z : P} (h₁ : Sbtw R w x y) (h₂ : Sbtw
...
-  intro p hp
-  simp_rw [Set.mem_insert_iff, Set.mem_singleton_iff] at hp
-  rcases hp with (rfl | rfl | rfl)
-  · refine ⟨0, ?_⟩
-    simp
-  · rcases h with ⟨t, -, rfl⟩
-    exact ⟨t, rfl⟩
-  · refine ⟨1, ?_⟩
-    simp
+  simpa [Set.insert_comm] using collinear_insert_of_mem_affineSpan_pair h.mem_affineSpan
```
Comment (grunweg) [inline Mathlib/Analysis/Convex/Between.lean]: Why do you need `insert_comm` here?

**Comment by yuanyi-350** [comment]
Oh, I have figured out the reason; it is because `have : {y, x, z} = {x, y, z} := Set.insert_comm y x {z}`

**Review by grunweg — COMMENTED** [review]
Thanks!
bors merge
